US05405851
A solution of diethyl N-(4-((1,2-dihydro-3-methyl-1-oxobenzo[f]quinazolin-9-yl)sulfonamido)benzoyl)-L-glutamate (0.22 g, 0.37 mmol) in ethanol (3 ml) and 0.25N NaOH (12 ml) was stirred at room temperature for 3 hours. The solution was slowly acidified to pH 3 with 1N HCl and the resulting precipitate filtered, washed with water, and dried under high vacuum to give N-(4-((1,2-dihydro-3-methyl-1-oxobenzo[f]quinazolin-9-yl)sulfonamido)benzoyl)-L-glutamic acid as a white solid (0.20 g). 1H NMR (DMSO-d6, 200 MHz) δ: 1.73-2.15 (m, 2H, glu CH2), 2.27 (t, J=7 Hz, 2H, glu CH2), 2.43 (s, 3H, CH3), 4.22-4.36 (m, 1H, glu CH), 7.20 (d, J=9 Hz, 2H, Ar), 7.69 (d, J=9 Hz, 2H, Ar), 7.76 (d, J=9 Hz, 1 H, Ar), 7.90 (dd, J=9,2 Hz, 1H, Ar), 8.18 (d, J=9 Hz, 1H, Ar), 8.28 (d, J=9 Hz, 1H, Ar), 8.39 (d, J=8 Hz, 1H, glu NH), 10.44 (d, J=2 Hz, 1H, Ar), 10.86 (br s, 1H, SO2NH), 12.32 (br s, 2H, CO2H's), 12.75 (br s, 1H, N2H). Anal. Calculated for C25H22N4O8S.4/5H2O): C, 54.30; H, 4.30; N, 10.13; S, 5.80. Found: C, 54.29; H, 4.25; N, 10.13; S, 5.72.

reactant | diethyl N-(4-((1,2-dihydro-3-methyl-1-oxobenzo[f]quinazolin-9-yl)sulfonamido)benzoyl)-L-glutamate | 0.37 mmol, 0.22 g | CC1=NC=2C=CC3=C(C2C(N1)=O)C=C(C=C3)S(=O)(=O)NC3=CC=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C3 | C29H30N4O8S
reactant | HCl | 1N | Cl | ClH
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | NaOH | 0.25N, 12 ml | [OH-].[Na+]
product | N-(4-((1,2-dihydro-3-methyl-1-oxobenzo[f]quinazolin-9-yl)sulfonamido)benzoyl)-L-glutamic acid | 0.20 g | CC1=NC=2C=CC3=C(C2C(N1)=O)C=C(C=C3)S(=O)(=O)NC3=CC=C(C(=O)N[C@@H](CCC(=O)O)C(=O)O)C=C3 | C25H22N4O8S
